US07135466B2
N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(2-phenoxybutanoyl)thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 2-phenoxybutanoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 2-phenoxybutanoyl isothiocyanate was prepared using the resultant 2-phenoxybutanoyl chloride as a starting compound according to the description of the literature. 2-Phenoxybutanoyl isothiocyanate thus obatined was dissolved in ethanol (1 ml) to prepare a solution. 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 16 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (25 mg, yield 27%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-phenoxybutanoic acid | 80 mg | O(C1=CC=CC=C1)C(C(=O)O)CC | C10H12O3
reactant | 2-phenoxybutanoyl chloride | O(C1=CC=CC=C1)C(C(=O)Cl)CC | C10H11ClO2
reactant | 2-Phenoxybutanoyl isothiocyanate | O(C1=CC=CC=C1)C(C(=O)N=C=S)CC | C11H11NO2S
reactant | 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 50 mg | ClC=1C=C(N)C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(2-phenoxybutanoyl)thiourea | 25 mg, yield 27% | ClC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC)NC(=S)NC(C(CC)OC1=CC=CC=C1)=O | C28H26ClN3O5S
